US07541374B2
0.19 g of 4-{[dichlorofluoromethyl]thio}-1H-pyrazole was dissolved to 5 ml of tetrahydrofuran. 5 ml of formaldehyde 36% in water and 0.1 ml of tetrabutylammonium hydroxide 10% in water were added to the solution, followed by stirring at room temperature for 4 hours. Water was added to the reaction mixture, and extracted with MTBE. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.22 g of 4-{[dichlorofluoromethyl]thio}-1H-pyrazole-1-ylmethanol.

reactant | 4-{[dichlorofluoromethyl]thio}-1H-pyrazole | 0.19 g | ClC(SC=1C=NNC1)(F)Cl | C4H3Cl2FN2S
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | formaldehyde | 5 ml | C=O | CH2O
solvent | water | O | H2O
solvent | tetrabutylammonium hydroxide | 0.1 ml | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-{[dichlorofluoromethyl]thio}-1H-pyrazole-1-ylmethanol | 0.22 g | ClC(SC=1C=NN(C1)CO)(F)Cl | C5H5Cl2FN2OS
